US03984549
6 G. of 2-amino-3-phenylpyridine and 7.4 g. of calcium carbonate in 500 ml. of water is added to a solution of 2.9 ml. thiophosgene in 105 ml. of ether. The reaction mixture is stirred at room temperature for 3 hours and the ether layer is separated. The water layer is extracted with ether and the combined ether extracts dried and evaporated to dryness affording 3-phenyl-2-pyridylisothiocyanate. The residue from the evaporation is allowed to stand at room temperature for 3 days. The reaction mixture is then triturated with ether and filtered affording 9-phenyl-3-(3-phenyl-2-pyridyl) pyrido (1,2-a) 1,3,5-triazine-2,4-dithione m.p. 90°-92° C.

reactant | 2-amino-3-phenylpyridine | NC1=NC=CC=C1C1=CC=CC=C1 | C11H10N2
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
reactant | water | O | H2O
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
solvent | ether | CCOCC | C4H10O
product | 3-phenyl-2-pyridylisothiocyanate | C1(=CC=CC=C1)C=1C(=NC=CC1)N=C=S | C12H8N2S
